### PR TITLE
[Merged by Bors] - chore(tprod): move tprod lemmas to protected namespace

### PR DESCRIPTION
**Pull request by apnelson1**
As per [zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2323503.20ENat.20and.20tsum), this PR renames lemmas of the form 

`theorem tprod_foo {f : a -> b} (Multipliable f) : _` 

to 

`protected theorem Multipliable.tprod_foo {f : a -> b} (Multipliable f) : _`,

and similar for `tsum`/`Summable`, usually via `to_additive`. This is so the name `tprod_foo` (and by extension `tsum_foo`) is freed up for planned versions of the lemmas in settings where multipliabilty/summability automatically holds (such as `ENat` and `ENNReal` for summability). 

We also deprecate all the old names. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by j-loreaux — APPROVED** [review]
Looks like a good collection of changes to me.

maintainer merge

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 1]
```diff
@@ -559,52 +559,71 @@ section ContinuousMul
 variable [ContinuousMul α]
 
 @[to_additive]
-theorem tprod_mul (hf : Multipliable f) (hg : Multipliable g) :
+protected theorem Multipliable.tprod_mul (hf : Multipliable f) (hg : Multipliable g) :
     ∏' b, (f b * g b) = (∏' b, f b) * ∏' b, g b :=
   (hf.hasProd.mul hg.hasProd).tprod_eq
 
+@[to_additive, deprecated (since := "2025-04-11")] alias tprod_mul := Multipliable.tprod_mul
```
Comment (urkud) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:566]: This way the additive version isn't deprecated. Unfortunately, `to_additive (attr := deprecated (since := ...))]` doesn't work either. My workaround is to use something like
```suggestion
@[deprecated (since := "2025-04-11")] alias tsum_add := Summable.tsum_add
@[to_additive existing, deprecated (since := "2025-04-11")] alias tprod_mul := Multipliable.tprod_mul
```

Comment (apnelson1) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: doh!

what is wrong with just two lines for each lemma? 

```
@[deprecated (since := "2025-04-11")] alias tsum_add := Summable.tsum_add
@[deprecated (since := "2025-04-11")] alias tprod_mul := Multipliable.tprod_mul
```

Comment (urkud) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: It registers the alias with the `to_aditive` machinery.

Comment (apnelson1) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: Ok - I believe I have fixed all these now.

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 2]
```diff
@@ -194,21 +228,33 @@ theorem hasProd_strict_mono (hf : HasProd f a₁) (hg : HasProd g a₂) (h : f <
...
 
-@[to_additive tsum_pos]
-theorem one_lt_tprod (hsum : Multipliable g) (hg : ∀ i, 1 ≤ g i) (i : ι) (hi : 1 < g i) :
-    1 < ∏' i, g i := by
+@[to_additive Summable.tsum_pos]
+protected theorem Multipliable.one_lt_tprod (hsum : Multipliable g) (hg : ∀ i, 1 ≤ g i) (i : ι)
+    (hi : 1 < g i) : 1 < ∏' i, g i := by
   rw [← tprod_one]
-  exact tprod_lt_tprod hg hi multipliable_one hsum
+  exact Multipliable.tprod_lt_tprod hg hi multipliable_one hsum
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean:253]: Can you use dot notation here?

**Review by kbuzzard — APPROVED** [review]
Thanks!

bors d+
